US07423038B2
N-acetyl-3-bromo-4-methylaniline
To a solution of 3-bromo-4-methylaniline (1.27 g, 6.82 mmol) in DCM (20 mL) at (0° C. is added acetic anhydride (0.676 mL, 7.16 mmol) dropwise. After 30 minutes, the mixture is partitioned between DCM and saturated sodium carbonate solution. The layer is separated and the aqueous layer is extracted with DCM. The combined organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated to afford the title compound (1.55 g, 99%). The residue is used in the next step without further purification.

reactant | 3-bromo-4-methylaniline | 6.82 mmol, 1.27 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | acetic anhydride | 7.16 mmol, 0.676 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-acetyl-3-bromo-4-methylaniline | 1.55 g, 99% | C(C)(=O)NC1=CC(=C(C=C1)C)Br | C9H10BrNO
